US07560468B2
NaH (1.26 g, 52.5 mmol) was added to a solution of tert-butyl 3-benzyl-2-oxo-1,4,8-triazaspiro[4,5]decane-8-carboxylate (12.1 g, 35 mmol) in THF (250 ml) at RT. After stirring for 1 h at 0° C., benzyl chloride (4.9 g, 38.5 mmol) was added dropwise, and the mixture was allowed to warm to RT and heated under reflux for 60 h. Subsequently, benzyl chloride (2.4 g, 19 mmol) was again added, and the mixture was heated under reflux for a further 16 h. The reaction mixture was treated with saturated aqueous NH4Cl solution (20 ml) and extracted with EA (3×50 ml). The combined organic phase was dried over Na2SO4 and filtered and the solvent was removed by distillation. Workup was carried out by means of column chromatography to give tert-butyl 1,3-dibenzyl-2-oxo-1,4,8-triazaspiro[4,5]decane-8-carboxylate in a yield of 13.5 g (88% of theory).

reactant | NaH | 52.5 mmol, 1.26 g | [H-].[Na+]
reactant | tert-butyl 3-benzyl-2-oxo-1,4,8-triazaspiro[4,5]decane-8-carboxylate | 35 mmol, 12.1 g | C(C1=CC=CC=C1)C1C(NC2(N1)CCN(CC2)C(=O)OC(C)(C)C)=O | C19H27N3O3
reactant | benzyl chloride | 38.5 mmol, 4.9 g | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | benzyl chloride | 19 mmol, 2.4 g | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | NH4Cl | 20 ml | [NH4+].[Cl-]
solvent | THF | 250 ml | C1CCOC1 | C4H8O
product | tert-butyl 1,3-dibenzyl-2-oxo-1,4,8-triazaspiro[4,5]decane-8-carboxylate | C(C1=CC=CC=C1)N1C(C(NC12CCN(CC2)C(=O)OC(C)(C)C)CC2=CC=CC=C2)=O | C26H33N3O3
